US04814329
5-benzyl-2-(2-chloroethylthio)-benzimidazole hydrochloride
12.1 g (40 mmoles) of 5-benzyl-2-(2-hydroxyethylthio)-benzimidazole are reacted with 5.15 ml of thionyl chloride in a mixture of 100 ml of benzene and 10 ml of acetonitrile. After teh evolution of the gas is ceased, the reaction mixture is evaporated, 30 ml of ethyl alcohol are added to the residue and the solution is evaporated off again. The product thus obtained is purified by chromatography. It is dissolved in ethyl acetate, introduced onto the colomn and thereafter eluted with ethyl acetate then ethanol. The target compound appears in the third fraction, its weight is 8.26 g. M.p.: 140°-145° C.

reactant | 5-benzyl-2-(2-hydroxyethylthio)-benzimidazole | 40 mmoles, 12.1 g | C(C1=CC=CC=C1)C1=CC2=C(N=C(N2)SCCO)C=C1 | C16H16N2OS
reactant | thionyl chloride | 5.15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-benzyl-2-(2-chloroethylthio)-benzimidazole hydrochloride | Cl.C(C1=CC=CC=C1)C1=CC2=C(N=C(N2)SCCCl)C=C1 | InChI=1S/C16H15ClN2S.ClH/c17-8-9-20-16-18-14-7-6-13(11-15(14)19-16)10-12-4-2-1-3-5-12;/h1-7,11H,8-10H2,(H,18,19);1H
